US08012976B2
8-(4-(Diethoxymethyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
The crude compound ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (4.2 g, 8.54 mmol) and hydrazine monohydrate (5 mL) were added in methanol (60 mL) and the mixture was stirred at room temperature for 16 hr. The resulting mixture was concentrated under reduced pressure to a volume of 40 mL and then filtered to obtain the crude title compound (3.0 g, yield 76%). LC-MS (ESI) m/z: 460 (M+1)+.

reactant | ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 8.54 mmol, 4.2 g | C(C)OC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)F)=O)C(=O)OCC)OCC | C29H30FNO5
reactant | hydrazine monohydrate | 5 mL | O.NN
solvent | methanol | 60 mL | CO | CH4O
product | 8-(4-(Diethoxymethyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 3.0 g, yield 76% | C(C)OC(C1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)F)OCC | C27H26FN3O3
